US04113733
Making of 2-chloroethylideneaminocarbamic acid ethylester
60 ml water and 0.8 ml of concentrated hydrochloric acid were heated to 90° C. in a three times tubulated round bottom flask of 250 ml contents equipped with a stirrer, thermometer and reflux condenser. The reaction mass was then reacted with 15.2 g of chloroacetaldehydediethylacetal and was subjected to stirring for 15 minutes at 90° to 100° C. The mass was then cooled to 30° C. and a solution of 12.5 g of hydrazinoformic acid ethylester in 40 ml water was added within a period of 10 minutes. There formed a white crystal slurry. After further stirring for 15 minutes the mass was subjected to suction. The separated crystals were washed with 30 ml icewater and were dried in vacuum at room temperture until the weight remained constant. There were obtained white crystals.

reactant | hydrochloric acid | 0.8 ml | Cl | ClH
reactant | chloroacetaldehydediethylacetal | 15.2 g | CCOC(CCl)OCC | C6H13ClO2
reactant | hydrazinoformic acid ethylester | 12.5 g | C(C)OC(=O)NN | C3H8N2O2
solvent | water | 40 ml | O | H2O
solvent | water | 60 ml | O | H2O
product | 2-chloroethylideneaminocarbamic acid ethylester | C(C)OC(NN=CCCl)=O | C5H9ClN2O2
